US05260438
A mixture of (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester (3 g), dimethylformamide (20 ml), N-methylpyrrolidone (7 ml) and ammonium hydrogenfluoride (1.21 g) is stirred at 20° C. for three days. The reaction mixture is poured into a phosphate buffer (pH 7.0), and the mixture is extracted with ethyl acetate. The aqueous layer is extracted with ethyl acetate, and the organic layers are combined, washed with water, dried, and concentrated under reduced pressure. The resulting residue is crystallized from a mixture of ethyl acetate and diisopropyl ether. To the resultant is added diisopropyl ether, and the precipitate is collected by filtration, and washed to give (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester (2.17 g) as crystals.

reactant | (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester | 3 g | C(C(C)C)(=O)OCOC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C)S[C@@H]2CC(NC2)=S | C25H40N2O6S2Si
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | ammonium hydrogenfluoride | 1.21 g | F.[NH4+]
reactant | phosphate | pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | N-methylpyrrolidone | 7 ml | CN1C(CCC1)=O | C5H9NO
product | (1R,5S,6S)-2-[(4R)-pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen-2-em-3-carboxylic acid isobutyryloxymethyl ester | 2.17 g, Yield: 91.0% | C(C(C)C)(=O)OCOC(=O)C1=C([C@@H]([C@H]2N1C([C@@H]2[C@@H](C)O)=O)C)S[C@@H]2CC(NC2)=S | C19H26N2O6S2
